US09340538B2
Step A: Ethyl 2-(2-cyanothiazol-4-yl)acetate
To a mixture of tert-butyl nitrite (10 mL, 80 mmol) and CuCN (7.28 g, 80 mmol) in anhydrous acetonitrile (30 mL) was added a solution of ethyl 2-(2-aminothiazol-4-yl)acetate (7.5 g, 40 mmol) in anhydrous acetonitrile (20 mL) dropwise over a period of 1 hour at 50° C., then the mixture was stirred at the temperature for 2.5 hours. The mixture was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=25/1) to give the title compound as yellowish liquid (2 g, 25%). The compound was characterized by the following spectroscopic data:

reactant | tert-butyl nitrite | 80 mmol, 10 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | CuCN | 80 mmol, 7.28 g | C(#N)[Cu]
reactant | ethyl 2-(2-aminothiazol-4-yl)acetate | 40 mmol, 7.5 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 2-(2-cyanothiazol-4-yl)acetate | 2 g, 25% | C(#N)C=1SC=C(N1)CC(=O)OCC | C8H8N2O2S
